US07767829B2
6.3 6-[(2E)-4,6-Difluoro-3,3-dimethyl-2-[(2E,4E)-4-(phenylimino)but-2-enylidene]-2,3-dihydro-1H-indol-1-yl]hexanoic acid
To 1-(5-carboxypentyl)-4,6-difluoro-2,3,3-trimethyl-3H-indolium (50 mg) was added malonaldehyde bis(phenylimine) monohydrochloride (37.6 mg), acetic anhydride (2 ml) and acetic acid (1 ml). This mixture was heated to 120° C. for 1 hour after which time it was cooled to room temperature. This crude reaction mixture (ca. 32 mg/ml product) was used without purification as further described.

reactant | 1-(5-carboxypentyl)-4,6-difluoro-2,3,3-trimethyl-3H-indolium | 50 mg | C(=O)(O)CCCCC[N+]1=C(C(C2=C(C=C(C=C12)F)F)(C)C)C
reactant | malonaldehyde bis(phenylimine) monohydrochloride | 37.6 mg | Cl.C1(=CC=CC=C1)N=CCC=NC1=CC=CC=C1
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 6-[(2E)-4,6-Difluoro-3,3-dimethyl-2-[(2E,4E)-4-(phenylimino)but-2-enylidene]-2,3-dihydro-1H-indol-1-yl]hexanoic acid | FC1=C2C(\C(\N(C2=CC(=C1)F)CCCCCC(=O)O)=C/C=C/C=N/C1=CC=CC=C1)(C)C | C26H28F2N2O2
